US04540703
5-(1-Methyl-1,2,3,4-tetrazol-5-yl)valeric acid (1.8 g) is dissolved in dimethylformamide (50 ml), and thereto is added triethylamine (1.1. g). To the mixture is added dropwise with stirring isobutyl chloroformate (1.5 g) under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. To the mixture is added dropwise with stirring diethylamine (0.9 g) at rood temperature, and the mixture is stirred for 2 hours. Dimethylformamide is distilled off under reduced pressure, and the residue is purified by column chromatography (Wakogel C-200). After eluting with benzene-chloroform (1:1), the eluate is distilled under reduced pressure to give N,N-diethyl-5-(1-methyl-1,2,3,4-tetrazol-5-yl)-valeramide (0.7 g), colorless liquid, b.p. 190°-200° C. (bath temperature)/0.07 mmHg, nD25 =1.4907.

reactant | 5-(1-Methyl-1,2,3,4-tetrazol-5-yl)valeric acid | 1.8 g | CN1N=NN=C1CCCCC(=O)O | C7H12N4O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.5 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diethylamine | 0.9 g | C(C)NCC | C4H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N,N-diethyl-5-(1-methyl-1,2,3,4-tetrazol-5-yl)-valeramide | 0.7 g | C(C)N(C(CCCCC1=NN=NN1C)=O)CC | C11H21N5O
